US07737166B2
2-Cyclopropyl-7-(1-iodomethylbut-3-enyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-298)
Imidazole (321 mg, 4.71 mmol), triphenyl phosphine (1.235 g, 4.71 mmol) and then iodine (956 mg, 3.77 mmol) were added to a solution of 2-cyclopropyl-7-(1-hydroxymethylbut-3-enyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-297) (675 mg, 1.88 mmol) dissolved in benzene (20 ml). The solution was stirred under nitrogen atmosphere at room temperature for 20 hours, then aqueous saturated sodium thiosulfate solution was added, followed by stirring at the same temperature for 10 minutes. The aqueous layer was separated, this was extracted three times with ethyl acetate. The organic layers were combined, washed with saturated brine, then dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, n-hexane:ethyl acetate=19:1, v/v) to obtain the entitled compound (707 mg, 80%).

reactant | Imidazole | 4.71 mmol, 321 mg | N1C=NC=C1 | C3H4N2
reactant | triphenyl phosphine | 4.71 mmol, 1.235 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 3.77 mmol, 956 mg | II | I2
reactant | 2-cyclopropyl-7-(1-hydroxymethylbut-3-enyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 1.88 mmol, 675 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2C(CC=C)CO)C2=CC=CC=C2)C)C#N | C23H22N2O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2-Cyclopropyl-7-(1-iodomethylbut-3-enyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 707 mg, 80% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2C(CC=C)CI)C2=CC=CC=C2)C)C#N | C23H21IN2O
